US07179823B1
Sodium hydride (60%, oily, 28.0 mg) was added to a solution of ethyl 3-[1-[3-hydroxy-5-[2-(2-pyrazinyl)-4-thiazolylmethoxy]benzyl]-4-phenyl-3-pyrrolyl]propionate (378 mg) in N,N-dimethylformamide (5 ml) at 0° C., and the mixture was stirred at room temperature for 15 minutes. Benzyl bromide (0.10 ml) was added to the mixture, which was stirred at room temperature for 1 hour. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[1-[3-benzyloxy-5-[2-(2-pyrazinyl)-4-thiazolyl methoxy]benzyl]-4-pheny-3-pyrrolyl]propionate (419 mg, yield: 95%) was obtained as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 126–127° C.

reactant | Sodium hydride | 28.0 mg | [H-].[Na+]
reactant | ethyl 3-[1-[3-hydroxy-5-[2-(2-pyrazinyl)-4-thiazolylmethoxy]benzyl]-4-phenyl-3-pyrrolyl]propionate | 378 mg | OC=1C=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C(C1)OCC=1N=C(SC1)C1=NC=CN=C1 | C30H28N4O4S
reactant | Benzyl bromide | 0.10 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[1-[3-benzyloxy-5-[2-(2-pyrazinyl)-4-thiazolyl methoxy]benzyl]-4-pheny-3-pyrrolyl]propionate | 419 mg, yield: 95% | C(C1=CC=CC=C1)OC=1C=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C(C1)OCC=1N=C(SC1)C1=NC=CN=C1 | C37H34N4O4S
